US09388197B2
A.2.3.1. Synthesis of 2,4-dichloro-6-methoxybenzaldehyde
To a soln. of 4,6-dichlorosalicylaldehyde (2.69 mmol) in 5 mL DMF was added K2CO3 (5.39 mmol) followed by iodomethane (2.96 mmol). The reaction mixture was heated to 50° C. for 3.5 h. At RT, the mixture was diluted with EtOAc and washed 3 times with water and then with brine. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as beige solid.

reactant | 4,6-dichlorosalicylaldehyde | 2.69 mmol | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | K2CO3 | 5.39 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 2.96 mmol | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-dichloro-6-methoxybenzaldehyde | ClC1=C(C=O)C(=CC(=C1)Cl)OC | C8H6Cl2O2
